US07001899B2
Preparation of {6-(benzoylamino-methyl)-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid (31):
A solution containing {6-(benzoylamino-methyl)-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester, 30, (84 mg, 0.17 mmol) in THF/H2O (4 mL of 3:1) is treated with excess LiOH and the solution stirred for 2.5 hours at room temperature. The solution is then acidified and extracted with EtOAc. The EtOAc layer was dried (Na2SO4) and concentrated to the crude product which is used without further purification.

reactant | {6-(benzoylamino-methyl)-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester | COC(CN1C(C(CC=C(C1)CNC(C1=CC=CC=C1)=O)NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C27H26N4O5
reactant | LiOH | [Li+].[OH-]
solvent | THF H2O | 4 mL | C1CCOC1.O
product | {6-(benzoylamino-methyl)-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid | C(C1=CC=CC=C1)(=O)NCC1=CCC(C(N(C1)CC(=O)O)=O)NC(=O)C1=NC=CC2=CC=CC=C12 | C26H24N4O5
